US06492348B1
(3R,4S,5R)-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-2,3,4-triol
1-[(3aR,4R,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]pentane-1,3-dione 1-oxime (0.5 g) was dissolved in aqueous acetic acid (18 mg) and the mixture heated at 100° C. for 2 h. The solution was cooled and concentrated in vacuo to afford a brown oil which was azeotroped with toluene. Purification by chromatography on silica gel (Varian Bondelut silica gel cartridge), eluting with (i) dichloromethane, (ii) ether, (iii) ethyl acetate, (iv) methanol, gave the title compound (150 mg).

reactant | 1-[(3aR,4R,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]pentane-1,3-dione 1-oxime | 0.5 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(CC(CC)=O)=NO | C13H21NO6
solvent | acetic acid | 18 mg | C(C)(=O)O | C2H4O2
product | (3R,4S,5R)-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-2,3,4-triol | 150 mg | C(C)C1=CC(=NO1)[C@@H]1[C@H]([C@H](C(O1)O)O)O | C9H13NO5
